US07230007B2
15.5 cm3 of thionyl chloride were added, at a temperature in the region of 25° C. under an argon atmosphere, to 1.1 g (3.6 mmol) of 1-(2-methylquinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid. After stirring at reflux for 2 h, the reaction mixture was concentrated to dryness under reduced pressure (2.7 kPa). The residue was twice in succession triturated with 10 cm3 of dichloromethane and the supernatant removed, and then the residue was concentrated to dryness under reduced pressure (2.7 kPa). 1.1 g of 3-chlorocarbonyl-1-(2-methylquinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride were thus obtained in the form of an orange crystalline solid which was used directly in the following stage.

reactant | thionyl chloride | 15.5 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(2-methylquinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 3.6 mmol, 1.1 g | CC1=NC2=CC=CC=C2C(=C1)N1C=C(C=2C1=NC=CC2)C(=O)O | C18H13N3O2
product | 3-chlorocarbonyl-1-(2-methylquinolin-4-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | 1.1 g | Cl.ClC(=O)C1=CN(C2=NC=CC=C21)C2=CC(=NC1=CC=CC=C21)C | InChI=1S/C18H12ClN3O.ClH/c1-11-9-16(13-5-2-3-7-15(13)21-11)22-10-14(17(19)23)12-6-4-8-20-18(12)22;/h2-10H,1H3;1H
